US05547972
In a similar manner to Example 52d, a solution of N-[1-(4-chlorophenyl)-1-methylethyl]-5-(imidazol-1-yl)pentanamide (5.1 g) in THF (125 ml) was reduced with BH3 /THF (63.7 ml of a 1M solution) to give N-[1-(4-chlorophenyl)-1-methylethyl]-5-(imidazol-1-yl)pentylamine as an oil, b.p. 195° C. (0.05 mmHg).

reactant | N-[1-(4-chlorophenyl)-1-methylethyl]-5-(imidazol-1-yl)pentanamide | 5.1 g | ClC1=CC=C(C=C1)C(C)(C)NC(CCCCN1C=NC=C1)=O | C17H22ClN3O
solvent | THF | 125 ml | C1CCOC1 | C4H8O
product | N-[1-(4-chlorophenyl)-1-methylethyl]-5-(imidazol-1-yl)pentylamine | ClC1=CC=C(C=C1)C(C)(C)NCCCCCN1C=NC=C1 | C17H24ClN3
